Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
sudden onset L sided weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is ___ RHW with PMH of HLD and borderline HTN who 
presented to OSH after her husband found her lying on the floor 
in their living room window and and CT scan at ___ demonstrated 
a large R parietal/occipital IPH and R parietal SAH. She was 
transferred to ___ for further managment of these bleeds. On 
arrival at ___, her BP was 200/99. She was given labelatol 10mg 
IV x2 as well as mannitol 50g IV x1 given vasogenic edema. On 
transfer here, she was also loaded with dilantin and started on 
Nicardipine drip for BP control. Of note, Cr was found to be 
1.9, up from baseline of 0.7 ___ years ago.  

Initially admitted to the neurosurgery service for management of 
intracranial hemorrhages, but transferred to neurology. 

Ms. ___ stated that she has had a headache for the last 5 
days, since ___ at noon. When it started, patient was eating 
lunch. The headache started gradually, reaching peak intensity 
of ___ after several hours. She did not have any confusion, 
visual disturbances, nausea, weakness with the headache. The 
pain was localized to the right temple. Day prior to admission, 
the pain was so severe that she vomited after eating.  Pain was 
somewhat relieved by massaging right temple. She took advil, but 
that did not alleviate the pain very much. Ms. ___ stated she 
slept on the couch yesterday evening and upon awakening "had 
difficulty positioning the legs to stand up." Denies any focal 
weakness in arms or legs, says "more of a problem with 
positioning."  Denies difficulty with speech, comprehension. 
Denies any changes in vision, double vision, black spots. She 
does not regularly get many headaches.  No night sweats. No 
changes in weight, no joint pain, no rash. No fecal/urinary 
incontience, no dysuria. No herbal supplements.  No known 
history of malignancy, thought did have a tubular adenoma on 
colonoscopy in ___.  Currently, she does not have a headache.  
She denies any difficulty with her vision on initial 
questioning, but does notice she cannot see
well when she is unable to answer what color eyes examiner has, 
etc. Patient states that she goes to her PCP ___. 

However, per Atrius records, she was last seen ___ years ago. At 
that time, SBP was 136. She was asked to return for close blood 
pressure monitoring but has cancelled multiple appointments 
since. 

Of note, Patient's husband gives a somewhat different account of 
yesterday's events.  He states that he came home at 7pm and saw 
Ms. ___ lying on the floor with face down, eyes closed. Her 
face was puffy. He yelled her name, she tried to open her eyes 
but was unable to initially.  She was having difficulty moving 
her left arm and leg. She was understanding everything he said 
to her. She was able to speak, but not well--slow, not sure if 
she was slurring speech. Ms. ___ was quite "groggy" at that 
time. After 30 min, husband called her sister and then called 
ambulance. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech. Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or
retention.   
On general review of systems, the pt denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
Hypertension (last BP measurement in clinic was in 130s, ___ years 
ago, not on any medications)
Hyperlipidemia
Varicose vein stripping  
Colonsopy with tubular adenoma in ___
Lumbar surgery
 
Social History:
___
Family History:
No history of lupus 
Father had thoracic aortic aneurysm ___, afib
Mother passed away at age ___, unsure from what
Maternal grandmother had MI
 
Physical Exam:
PHYSICAL EXAM on Admission:
GCS  15
O: T:98.6  BP: 173/92 HR: 88   R 18 O2Sats 98%2L
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: sluggish bilaterally EOMs intact. 
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal 
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils round and reactive to light, R 3.5->2.5 L 3->2 
(slightly smaller). Visual fields are diminished lateral Left 
field
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact 
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength full power ___ on Right. ___ strength on L 
upper and lower extremity.+ pronator drift
Sensation: Intact to light touch bilaterally.
Reflexes:intact bilaterally. 
Toes upgoing bilaterally

Coordination: decreased finger-nose-finger, rapid alternating 
movements, heel to shin (limited by deminished vision and 
weakness)

DISCHARGE EXAM:
VITALS:
GEN: sitting up in a chair, pleasant and NAD
EXT: pitting edema in all extremities, L>R
NEURO:
Mental Status: alert, awake, speech fluent. Oriented to place 
and time. 
CN: mild L nasolabial fold flattening, no dysarthria. 
Motor: normal bulk and tone bilaterally, strength full in right. 
L delt, bicep, triceps, wrist and finger extensors ___. L IP, 
quad, hamstring, TA and gastroc. 
Sensation: intact to light touch and pinprick in all 
extremities.
 
Pertinent Results:
ADMISSION LABS:
___ 11:30PM BLOOD WBC-14.4* RBC-4.05* Hgb-11.8* Hct-34.9* 
MCV-86 MCH-29.3 MCHC-33.9 RDW-13.4 Plt ___
___ 11:30PM BLOOD ___ PTT-24.9* ___
___ 11:30PM BLOOD ___
___ 11:30PM BLOOD UreaN-28* Creat-1.9*
___ 11:30PM BLOOD Lipase-11
___ 05:30AM BLOOD Albumin-2.4* Calcium-8.3* Phos-5.0* 
Mg-2.2 Cholest-388*

RELEVANT LABS:
___ 03:05PM BLOOD %HbA1c-5.7 eAG-117
___ 05:30AM BLOOD Triglyc-118 HDL-76 CHOL/HD-5.1 
LDLcalc-288*
___ 03:05PM BLOOD TSH-1.9

NEPHROTIC SYNDROME W/U:
___ 03:05PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE
___ 05:53PM BLOOD dsDNA-NEGATIVE
___ 03:05PM BLOOD ___
___ 03:05PM BLOOD PEP-NO SPECIFI
___ 03:05PM BLOOD C3-128 C4-31
___ 03:05PM BLOOD HIV Ab-NEGATIVE
___ 03:05PM BLOOD HCV Ab-NEGATIVE
___ 03:05PM BLOOD ESR-89*
___ 03:05PM BLOOD CRP-33.7*

================================
NEURO-IMAGING:
___ OSH: 
1.  Parenchymal hemorrhage within the right cerebral hemisphere 
with surrounding vasogenic edema and mass effect with leftward 
shift of normally midline structures (10 mm shift). 
2.  Bilateral subarachnoid hemorrhage. 
3.  Possible uncal herniation cannot be excluded. 
4.  Hypodensity within the left parieto-occipital, left frontal 
and right 
frontal regions of unclear etiology. Unclear if patient has some 
underlying disease or brain metastases that have hemorrhaged. An 
MRI may be obtained for further evaluation. 
 
___ ___: (2 HRS after the OSH imaging)
1.  Right cerebral parenchymal hemorrhage and surrounding 
vasogenic edema, 11 mm leftward shift of normally midline 
structures (previously 10 mm at a comparable level), bilateral 
subarachnoid hemorrhage  
2.  Hypodense areas within the right parieto-occipital, right 
and left frontal regions. 
ATTENDING NOTE: No change in mass effect or hemorrhage.  

___ CTA head/neck:
1.  Stable appearance of right parietal and frontal
intraparenchymal hemorrhage and bilateral subarachnoid 
hemorrhage. 
2.  Hypodensities in the bilateral frontal and occipital lobes 
are noted likely representing edema.  Differential diagnosis 
includes PRES with hemorrhagic conversion; however, underlying 
mass is not completely excluded. If there is concern for 
underlying metastasis MRI could be useful for further 
evaluation. 
3.  No abnormal vascular structures, arterial venous 
malformation or enhancing mass lesions are seen. 

___ MRI/MRV:
Multifocal intraparenchymal hemorrhages in the right parietal 
and occipital lobes, with additional foci of vasogenic edema in 
the bilateral cerebral hemispheres and in the left cerebellum.  
Findings could represent PRES with hemorrhage versus  venous 
infarcts, although the lack of visualization of the left 
transverse sinus could be related to a hypoplastic sinus rather 
than venous sinus thrombosis. 

___ TTE: 
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF 65%). Right ventricular chamber size and free wall motion 
are normal. The ascending aorta is mildly dilated. The aortic 
valve is bicuspid. There is mild aortic valve stenosis. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Trivial mitral regurgitation is seen. There is
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion.

___ RENAL U/S: Normal gray-scale, color, and spectral 
Doppler evaluation of the kidneys bilaterally.

___ LUE/LLE ultrasound: Deep vein thrombosis in one of the 
left paired brachial veins as well as the left cephalic vein. No 
evidence of left lower extremity deep vein thrombosis.

==========================================
MICROBIOLOGY
___ Blood culture ___ bottles positive for coag negative 
staph
___ Blood culture no growth to date
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
[] Blood pressure control, patient on multiple medications. 
Would like to uptitrate lisinopril and wean off clonidine if 
possible
[] Plan for renal biopsy, will likely need to be scheduled as 
outpatient (___)
[] LUE PICC associated DVT, held off on systemic anticoagulation 
given recent intraparenchymal hemorrhages, but will need lovenox 
prophylaxis x2 weeks and may require follow up ultrasound in few 
weeks to re-evaluate.

Ms. ___ is ___ RHW with PMH of HLD and borderline HTN who 
presented to OSH after her husband found her lying on the floor 
in their living room window and and CT scan there demonstrated a 
large R parietal/occipital IPH and R parietal SAH with posterior 
white matter changes, consistent with PRES. Her hospital course 
complicated by difficult to control blood pressure and catheter 
associated LUE DVT.

# Neuro: Patient with initial left sided weakness, L visual 
field deficit and hemineglect as well. Patient also complained 
of headaches while in the ICU, which improved with blood 
pressure control. She was started on Keppra for seizure 
prophylaxis, given that she was found down in house and it was 
unclear whether or not she had a seizure at home. Patient did 
not have a clinical seizure in the hospital. Her blood pressure 
goal was SBP 110-160, and she required nicardipine gtt in the 
ICU. She was started on labetalol, amlodipine and clonidine and 
was able to be weaned off nicardipine. After she was transferred 
to the floor, she required IV hydralazine ___ times daily due to 
elevated blood pressures. Lisinopril was added for better blood 
pressure control and also for her nephrotic syndrome (as below). 


# CV: No history of cardiac problems, though her last PCP ___ 
___ years ago document SBP of 130s. Patient reports that her 
blood pressure has been "normal" prior to this. TTE with mild 
symmetric left ventricular hypertrophy, normal LVEF (65%). 
Patient's hypertension was difficult to control and required 
multiple medications as above. Also, her LDL was elevated to 
288, so she was started on 80 mg of atorvastatin. 

# Renal: No history of kidney problems in the past, patient with 
Cr of 1.8 on presentation and nephrotic syndrome with edema and 
proteinuria. Patient did report that she had swelling in her 
legs and foamy urine for a few months, during this ___. Her 
blood pressure was controlled with medications as above and her 
creatinine improved. Her initial work up for nephrotic syndrome 
had negative HIV, ___, hepatitis panel. Her C3/C4 were within 
normal limits. SPEP did not show any specific abnormalities and 
UPEP showed predominant albumin but negative for ___ 
protein, and no monoclonal immunoglobulin. Renal was planning 
for kidney biopsy but it was deferred because of her labile 
blood pressure. It will likely need to be scheduled as 
outpatient.

# ID: Patient had initial leukocytosis, and infectious work up 
was done but negative. She did have positive coag neg staph in 
blood culture, and received vancomycin for a few days, but as it 
was only 1 out of 2 bottles, and subsequent BCx negative to 
date, it was thought to be due to contamination. Her 
leukocytosis resolved and patient remained afebrile. 

# HEME: She had one day of thrombocytopenia, but resolved on its 
own. Her CBC was monitored and leukocytosis resolved as above. 
Patient developed a PICC associated LUE DVT, no DVT seen in LLE. 
So her LUE PICC was discontinued and her DVT prophylaxis was 
changed to lovenox 30 BID. Further systemic anticoagulation was 
not started given her recent multiple intraparenchymal 
hemorrhages. 

# ENDO: A1C of 5.7%, no insulin needed.
# FEN: heart healthy diet, replete lytes prn, no IVF
# PPx: SQ lovenox and pneumoboots for prophylaxis. Bowel reg 
with senna/colace  
# Code status: Full Code
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN headache 
2. Amlodipine 10 mg PO DAILY 
hold for SBP <100 
3. CloniDINE 0.1 mg PO TID 
hold if SBP <100 
4. HydrALAzine 10 mg IV Q6H:PRN SBP > 160 
5. Labetalol 200 mg PO TID 
hold for SBP <100, HR <60 
6. Lisinopril 20 mg PO HS 
hold if SBP <100 
7. Sodium Chloride 0.9%  Flush 10 mL IV PRN line flush 
PICC, non-heparin dependent: Flush with 10 mL Normal Saline 
daily and PRN per lumen. 
8. LeVETiracetam 750 mg PO BID 
9. Enoxaparin Sodium 30 mg SC Q12 HRS Duration: 2 Weeks 
10. Atorvastatin 40 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
Primary: PRES with IPH of the right occipital hemorrhage. 
         HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ was a pleasure to take care of you at ___ 
___. 
You had a condition called PRES or posterior reversible 
encephalopathy syndrome due to high blood pressure. You had a 
bleed in the back of your brain causing you to lose vision. We 
placed you on multiple blood pressure medications to help 
control your blood pressure. You will need to follow up with the 
kidney doctors to ___ if there is a reason for your high blood 
pressure that they can fix. Your vision should improve over 
time, you can go see an eye doctor in about ___ months. 
 
Followup Instructions:
___